US03989841
α-Methylenefluorene-2-acetic acid
A solution of α-methyl-α-hydroxyfluorene-2-acetic acid (5.7 g) and sulfuric acid (11.4 ml) in dioxane (300 ml) is refluxed for 2 hours. The reaction mixture is poured into ice water and extracted with ether. The ether extracts are washed with water, dried (MgSO4), and evaporated to give the title compound (5.2 g, mp 183°-185°). The analytical sample is prepared by recrystallization from 95% ethanol, mp 190°-191°, λKBr 880 cm-1.

reactant | α-methyl-α-hydroxyfluorene-2-acetic acid | 5.7 g | CC(C(=O)O)(C1=CC=2CC3=CC=CC=C3C2C=C1)O | C16H14O3
reactant | sulfuric acid | 11.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | α-Methylenefluorene-2-acetic acid | 5.2 g | C=C(C(=O)O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C16H12O2
